data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5117,"CCO.CC[N+]1=[C:1]([H:2])SC(CCO)=C1C.COC(=O)C(=CC1=CC=CC=C1)C(=O)C(C)C.O=CC1=CC=C(F)C=C1.OCC[N:3](CCO)CCO.[Br-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10035,"C=C(CCC=O)[O-:1].[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1256,"O=[N+]([O-])[C-:1]1C=CC=C[C:2]1(O)[Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,4547,"C[C+:1]1C=CC=C[C:2]1([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,1411,"CC(C1CCCCC1)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,680,"CCOCC.COC1=CC([CH:1]([OH+:2][B-](F)(F)F)[CH:3]([C:4]2=C(O[Si](C)(C)C(C)(C)C)C(O[Si](C)(C)C(C)(C)C)=C(OC)C=C2)[OH:5])=CC(OC)=C1OC|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7777,"C=C1CC2CC(=O)C(C)(C1)[C:1]2=[O:2].C[O:3][Na]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2254,"C1=CC=C([P+](OCC2=CC3=C(C=CC=C3)C=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCC(C(=O)C1=CC=CC=C1)C(=O)[O:1][H:2].CCOC(=O)N[N-:3]C(=O)OCC|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9053,"CC[O-:1].Cl[C:2]1=[N:3]C=CC=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5408,"CCOC(=O)[CH:1]=[C:2](OCC)[O-:3].CCO[C:4](=[O:5])[CH:6]=[CH2:7]|(3, 2);((2, 1), 7);((7, 6), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8087,"CC(=O)[O-:1].CC1=N[CH:2]([H:3])[C:4](=[O:5])O1|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9266,"C(C[CH:1]=[OH+:2])C[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2112,"N#[C-:1].[CH3:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3353,"CC(C)=O.CC(C)O.COC1=CC2=C(C=C1)CCN1C(=O)C=C3C=CC([OH+:1][Al-:2]([OH])([O]C(C)C)[O]C(C)C)CC321.O|((2, 1), 1)"
train,pmechdb_split_0,0,8998,"CCN[C:1](C)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6023,"C1CCC2=[N+:1]([H:2])CCCN2CC1.CC(=O)NC1=CC=C(S(=O)(=O)[N-:3]N=NC(C(=O)OC2C(=O)N(CC3=CC=CC=C3)C3=C2C=CC=C3)C2=CC=CC=C2)C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5798,"CCC=C(C)C1O[B-:1](C2CCCCC2)(C2CCCCC2)[O+:2]=C(C(C)COCC2=CC=CC=C2)C1C|((1, 2), 2)"
train,pmechdb_split_0,0,4100,"[CH2:1]=[OH+:2].[I-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7052,"C[NH:1]N.N#CC1=CC=C([CH2:2][Cl:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,562,"CC1([OH:1])C=CC(C2C(=O)OC3C(O)COC32O)O1.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9148,"N#C[CH:1]([N+](=O)[O-])[H:2].[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10364,"C1CCC2=[NH+]CCCN2CC1.CC(=O)NC1=CC=C(S([NH-])(=O)=O)C=C1.O=C1C(OC(=O)[C:1](C2=CC=CC=C2)=[N+:2]=[N-:3])C2=C(C=CC=C2)N1CC1=CC=CC=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8838,"CC(=O)[O-:1].NCC[N+:2](=C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)[H:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10168,"CO[CH:1]=[OH+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,10094,"CCC[C:1](CCC)=[O+:2][Na].[H:3][BH3-:4]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4806,"C1CCC[CH:1]([Br:2])CCC1.CC[B-:3](CC)(CC)[H:4].[Li+]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7886,"CC(CCC(=O)C1=C(OCC2=CC=CC=C2)C=CC(Cl)=C1)([NH2+]C1=CC(S(N)(=O)=O)=CC=C1)[O-:1].CC1=CC=C(S(=O)(=O)[O:2][H:3])C=C1.CC1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6974,"CC1=CC=CC(C)(C)CC2C(C)(CCC1)[O:1]2.Cl.[Cl][Sn:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,2874,"CC1(C)O[B-](CC=CCCC[CH:1]([OH+:2]C)[O:3]C)(OC(=O)C(F)(F)F)OC1(C)C|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8380,"FC(F)(F)C1=C[CH:1]=[CH:2]O1.O=[N+:3]=[O:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2035,"CC#C[C:1](C)=[O:2].CC#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5680,"CC(=O)[CH-:1]CC1(C)C(=O)CCCC1=O.CO.C[O+:2]([Na])[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4316,"CC1(C)CCC[O:1]1.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5428,"C=CC1=C([NH2:1])C=CC=C1.CC(C)(C)[O-].CN(C)C1=CC=[N+]([C:2](OC(=O)OC(C)(C)C)=[O:3])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5711,"COC1CC2N3CC4=CC5=C(C=C4C(C3)[C+:1]2[CH:2]=[CH:3]1)OCO5.CS(=O)(=O)[O-].[OH-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,5335,"CCOC(CC)(OCC)[O+:1](CC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7670,"O=S(=O)(C(F)(F)F)[O:1][CH2:2]CO.[Br-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5841,"CCCC1=CC=C([O+](C)[B:1](Br)Br)C=C1.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,3545,"[Li][O:1][C:2](CCC(C)=O)(C1=CC=CC=C1)[Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,9295,"CO[C:1](C(CC[O-:2])C(C)=O)=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6952,"CC(C)(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,7096,"CCOC(=O)NN(C(=O)OCC)[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CN1CC([OH:2])CC1=O.O=C([O-])C1=CC=C([N+](=O)[O-])C=C1|(2, 1)"
train,pmechdb_split_0,0,5062,"CCOC(=O)CNP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9191,"C[N:1](C)[CH+:2][S-]|(1, 2)"
train,pmechdb_split_0,0,4314,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CC1=CC=CC=C1.C[C:1]([CH:2](CC(=O)C1=C(OCC2=CC=CC=C2)C=CC(Cl)=C1)[H:3])=[NH+:4]C1=CC(S(N)(=O)=O)=CC=C1.[OH2:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
